US05677454
To a solution of 45 mg of 3-chloromethylbiphenyl in 5 mL of chloroform was added 50 mg of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride and 0.5 ml triethylamine. The reaction mixture was heated at reflux temperature overnight, cooled to room temperature, washed successively with 50 mL aliquots of dilute sodium hydroxide and brine. The chloroform was removed by evaporation under reduced pressure to yield 3-phenyl[(4-phenyl-1,2,3,6-tetrahydropyridin- 1-yl)methyl]benzene which was purified by chromatography on silica gel using 5% methanol in dichloromethane as eluent. Evaporation of the solvent yielded a solid which was treated with ethereal-HCl to give 15 mg of 3-[(4-1,2.3,6-tetrahydropyridin-1-yl)methyl]biphenyl hydrochloride (Compound 3), mp 236°-238° C.

reactant | 3-chloromethylbiphenyl | 45 mg | ClCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Cl
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 50 mg | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-phenyl[(4-phenyl-1,2,3,6-tetrahydropyridin- 1-yl)methyl]benzene | C1(=CC=CC=C1)C=1C=C(C=CC1)CN1CCC(=CC1)C1=CC=CC=C1 | C24H23N
